US05929085
(a) 2-(2-Hydroxyethyl)-8-nitro-2,3,4,5-tetrahydro-1H-2-benzazapine hydrochloride
To a suspension of 8-nitro-2,3,4,5-tetrahydro-1H-2-benzazapine (5.08 g, 22.2 mmol) in ethanol (200 ml) at 0° C. was added 2.5M sodium hydroxide solution (10.0 ml). To this solution, in a pressure bottle, was added ethylene oxide (4.2 ml) and the bottle was capped and stirred at ambient temperature overnight. The solvent was concentrated in vacuo and the residue was partitioned between dichloromethane and dilute sodium hydroxide. The organic phase was dried (magnesium sulfate) and concentrated to give a yellow solid. This solid was taken up in ethanol and acidified with hydrochloric acid in ethanol. Addition of ether effected precipitation of the title salt as an orange solid (2.69 g, 44%), m.p. 193.5-4.5° C.

reactant | 8-nitro-2,3,4,5-tetrahydro-1H-2-benzazapine | 22.2 mmol, 5.08 g | [N+](=O)([O-])C1=CC2=C(CCCNC2)C=C1 | C10H12N2O2
reactant | sodium hydroxide | 2.5M, 10.0 ml | [OH-].[Na+]
reactant | ethylene oxide | 4.2 ml | C1CO1 | C2H4O
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 200 ml | C(C)O | C2H6O
solvent | ether | CCOCC | C4H10O
product | 2-(2-Hydroxyethyl)-8-nitro-2,3,4,5-tetrahydro-1H-2-benzazapine hydrochloride | Cl.OCCN1CC2=C(CCC1)C=CC(=C2)[N+](=O)[O-] | InChI=1S/C12H16N2O3.ClH/c15-7-6-13-5-1-2-10-3-4-12(14(16)17)8-11(10)9-13;/h3-4,8,15H,1-2,5-7,9H2;1H
